US04544753
b. (4-Amino-5-methylisoxazol-3-yl)phenylmethanone
A solution of 47 g (0.20 mole)(5-methyl-4-nitroisoxazol-3-yl)phenylmethanone of Example Ia in 600 ml glacial acetic acid was added to a mixture of 360 g (1.60 moles) SnCl2.2H2O in one liter of concentrated hydrochloric acid and 200 ml acetic acid at room temperature. After stirring at room temperature overnight (about 16 hours), the reaction mixture was poured carefully into a well stirred mixture of 2400 g of 50% sodium hydroxide and 6500 ml ice with ice bath cooling. The resulting solids were collected by filtration, washed with water and partitioned between 600 ml 5% sodium hydroxide and 2 liters of 1:1 dichloromethane:diethyl ether. The aqueous was extracted thrice with diethyl ether and the organic extract was dried (magnesium sulfate). Concentration gave 26.3 g (65%) of an oil. Chromatography on high pressure liquid chromatograph (HPLC) using dicloromethane as an eluent of 4.0 g of this oil yielded 2.7 g (44%) of an oil that solidified on standing.

reactant | (5-methyl-4-nitroisoxazol-3-yl)phenylmethanone | 0.20 mole, 47 g | CC1=C(C(=NO1)C(=O)C1=CC=CC=C1)[N+](=O)[O-] | C11H8N2O4
reactant | SnCl2.2H2O | 1.60 moles, 360 g | O.O.Cl[Sn]Cl
reactant | sodium hydroxide | 2400 g | [OH-].[Na+]
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | one liter | Cl | ClH
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | (4-Amino-5-methylisoxazol-3-yl)phenylmethanone | 26.3 g, 65% | NC=1C(=NOC1C)C(=O)C1=CC=CC=C1 | C11H10N2O2
